US06908930B2
A solution of 5-(2-carboxy-ethyl)-3-methyl-1H-pyrrole-2-carboxylic acid (1.3 g, 6.59 mmol) in trifluoroacetic acid (6 mL) was stirred at room temperature for 10 minutes. It was then cooled to 0° C. and to it was added triethyl orthoformate (6 mL). The mixture was stirred at 0° C. for 10 minutes and at room temperature for 10 minutes. The reaction was poured into water (50 mL) and extracted with ethyl acetate. The extract was dried and concentrated to give 1.2 g of 3-(5-formyl-4-methyl-1H-pyrrol-2-yl)-propionic acid as a brown solid. 1H NMR (300 MHz, DMSO-d6) δ 12.17 (br s, 1H), 11.50 (br s, 1H), 9.44 (s, 1H, CHO), 5.85 (s, 1H), 2.74 (t, J=7.4 Hz, 2H, CH2), 2.54 (t, J=7.4 Hz, 2H, CH2), 2.23 (s, 3H, CH3). MS 182 [M++1].

reactant | 5-(2-carboxy-ethyl)-3-methyl-1H-pyrrole-2-carboxylic acid | 6.59 mmol, 1.3 g | C(=O)(O)CCC1=CC(=C(N1)C(=O)O)C | C9H11NO4
reactant | triethyl orthoformate | 6 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | water | 50 mL | O | H2O
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(5-formyl-4-methyl-1H-pyrrol-2-yl)-propionic acid | 1.2 g | C(=O)C1=C(C=C(N1)CCC(=O)O)C | C9H11NO3
